### PR TITLE
feat(divmod): KB-6d stub — div128Quot upper bound API

### PR DESCRIPTION
**Pull request by pirapira**
## Summary

Adds `div128Quot_le_q_true_plus_two` as the user-facing closing theorem of Knuth Theorem B for `div128Quot`:

```
(div128Quot uHi uLo vTop).toNat ≤ (uHi*2^64 + uLo)/vTop + 2
```

under the standard preconditions (normalized divisor `vTop ≥ 2^63`, call-path dividend bound).

Currently a **STUB** (`sorry`). Provides a stable API for downstream consumers (call-trial DIV/MOD stack specs, double-addback closure in #1338).

## Closure path (documented inline)

1. **KB-6c** — Nat assembly: compose KB-2 (Phase 1b q1' bounds) + KB-5c (Phase 2b q0' bounds) at Nat level.
2. **KB-6a strict** (already closed) + **KB-6b's `un21 < vTop` precondition** (already closed conditionally).
3. The substantial remaining gap is `un21 < vTop` itself (~300-400 LOC, see `project_un21_lt_vTop_plan.md` for the U1/U2/U3 sub-lemma decomposition).

## Test plan

- [x] `lake build` succeeds with the documented sorry warning.

Tracked in #1337.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: EvmAsm/Evm64/DivMod/SpecCall.lean [hunk 1]
```diff
@@ -3533,26 +3533,32 @@ theorem qHat_ge_two_of_double_addback (a b : EvmWord)
...
-  --   - Or split into a sub-lemma that phrases the contradiction abstractly.
+  -- 2. **Abstract sub-lemma `qHat_ge_two_abstract`** (committed this iteration):
+  --    The pure-Nat algebra works in isolation. Wiring it up here, however,
+  --    requires passing the deep `addbackN4 (mulsubN4 ...).1 ... b0' b1' b2' b3'`
+  --    expression as the `ab` parameter, which **also triggers kernel
+  --    deep-recursion** (102 sec build, then fails) because the kernel tries
+  --    to fully reduce both sides of the unification at instantiation time.
+  --
+  -- **Next iteration paths**:
+  --   - **(a)** Add a named `noncomputable def` in `LoopDefs/Iter.lean` for
```
Comment (pirapira) [inline EvmAsm/Evm64/DivMod/SpecCall.lean]: Choose (a)

File: EvmAsm/Evm64/EvmWordArith/Div128KnuthLower.lean [hunk 2]
```diff
@@ -802,4 +802,610 @@ theorem div128Quot_q0_prime_ge_q_true_0_of_un21_lt_dHi_mul_pow32
...
+    -- project_un21_lt_vTop_plan.md) and is a hard math gap requiring
+    -- either Word-level Knuth-C-tight analysis (~150 LOC) or a different
+    -- composition path (e.g., via Piece A's abstract Knuth-B bound).
+    --
+    -- **CRITICAL (2026-04-26):** This Sub-case A goal is **NOT
+    -- PROVABLE** under just `uHi < 2^63`. Concrete counterexample:
+    -- dHi = 2^31, dLo = 2^32 - 1, uHi = 2^62 + 2^32, div_un1 = 0.
+    -- Then q1c = q_true_1 + 2 = 2^31 + 2 (KB-LB11 saturated), check
+    -- fires, rhat' = 2^31 < 2^32 (Sub-case A), and the goal fails by
+    -- 2^31 - 1. See `project_u3_unprovable_counterexample.md`.
```
Comment (pirapira) [inline EvmAsm/Evm64/EvmWordArith/Div128KnuthLower.lean]: Use the counter example to validate the plan. Maybe the plan involves unprovable lemmas. Modify the plan if needed.

File: EvmAsm/Evm64/DivMod/SpecCall.lean [hunk 3]
```diff
@@ -3533,32 +3529,27 @@ theorem qHat_ge_two_of_double_addback (a b : EvmWord)
...
   --
-  -- 2. **Abstract sub-lemma `qHat_ge_two_abstract`** (committed this iteration):
-  --    The pure-Nat algebra works in isolation. Wiring it up here, however,
-  --    requires passing the deep `addbackN4 (mulsubN4 ...).1 ... b0' b1' b2' b3'`
-  --    expression as the `ab` parameter, which **also triggers kernel
-  --    deep-recursion** (102 sec build, then fails) because the kernel tries
-  --    to fully reduce both sides of the unification at instantiation time.
+  -- **Path forward (option a)**: route through the existing irreducibles
+  -- `algCallAddbackBeqMsLowVal` and `algCallAddbackBeqMsC3`. These wrap
+  -- the val256/c3 outputs as `@[irreducible]` defs. Passing them to
```
Comment (pirapira) [inline EvmAsm/Evm64/DivMod/SpecCall.lean]: Yes use irreducible definitions

File: EvmAsm/Evm64/EvmWordArith/Div128PhaseNoWrap.lean [hunk 4]
```diff
@@ -0,0 +1,283 @@
...
+    show ((rhatc <<< (32 : BitVec 6).toNat) ||| div_un1).toNat = _
+    rw [bv6_toNat_32]
+    exact EvmWord.halfword_combine rhatc div_un1 h_rhatc_lt h_div_un1_lt
+  by_cases h_check : BitVec.ult rhatUn1 qDlo
+  · -- Check fires: q1' = q1c - 1, rhat' = rhatc + dHi.
+    -- See `project_u3_unprovable_counterexample.md` — this Sub-case A
+    -- goal is **NOT PROVABLE** under just `uHi < 2^63`. Use
+    -- `div128Quot_phase1_no_wrap_skip` (call-skip variant) for the
+    -- closeable form with strengthened hypotheses.
+    sorry
```
Comment (pirapira) [inline EvmAsm/Evm64/EvmWordArith/Div128PhaseNoWrap.lean]: If this is not provable we need to change the statement of the whole lemma. Look at the caller as well because this issue might indicate a bug in the implementation.
